US08372884B2
Synthesis of ((R)-2-(3-(furan-2-yl)propanamido)-3-((2E,6E)-3,7,11-trimethyldodeca-2,6,10-trienylthio)propanoic acid) (Compound N-96):
To a solution of 3-(2-furyl) propionic acid (168 mg, 1.2 mmol) and 4-(4,6-dimethoxy-1,3,5-triazin-2-yl)-4-methylmorpholinium chloride (DMTMM, 332 mg, 1.2 mmol) in CH2Cl2 (5 mL) was added N,N-diisopropyl-ethyl-amine (0.52 mL, 3 mmol). After stirring for 10 min, S-trans, trans-farnesyl-L-cysteine (325 mg, 1 mmol) was added slowly. The solution was stirred at room temperature overnight and then diluted with ethyl acetate (60 mL). The solution was washed by 0.5 N HCl (10 mL×1), H2O (10 mL×1) and brine (10 mL×1). The organic layer was dried over Na2SO4 and concentrated in vacuo. The residue was purified by preparative HPLC (333 mg, 74%) to yield Compound N-96. 1H-NMR (500 MHz, CD3OD): δ 1.50 (s, 6H), 1.57 (s, 3H), 1.59 (s, 3H), 1.86-1.89 (m, 2H), 1.95-2.06 (m, 6H), 2.51 (t, J=8.0 Hz, 2H), 2.57-2.62 (m, 1H), 2.83-2.869 (m, 3H), 3.05 (dd, J=7.5, 13.5 Hz, 1H), 3.12-3.16 (m, 1H), 4.49 (dd, J=4.5, 8.0 Hz, 1H), 4.99-5.01 (m, 2H), 5.13 (t, J=7.5 Hz, 1H). 13C-NMR (125 MHz, CD3OD): δ 16.15, 16.24, 17.80, 24.96, 25.95, 27.39, 27.79, 30.11, 33.41, 35.08, 40.79, 40.89, 53.30, 106.28, 111.19, 121.61, 125.14, 125.46, 132.12, 136.27, 140.49, 142.36, 155.72, 174.00, 174.78; ES-MS: mass calcd for Chemical Formula: C25H37NO4S 447.63. Found (M+1) m/z 448.3, (M+23) m/z 470.2.

reactant | 3-(2-furyl) propionic acid | 1.2 mmol, 168 mg | O1C(=CC=C1)CCC(=O)O | C7H8O3
reactant | 4-(4,6-dimethoxy-1,3,5-triazin-2-yl)-4-methylmorpholinium chloride | 1.2 mmol, 332 mg | [Cl-].COC1=NC(=NC(=N1)OC)[N+]1(CCOCC1)C
reactant | N,N-diisopropyl-ethyl-amine | 3 mmol, 0.52 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | trans-farnesyl-L-cysteine | 1 mmol, 325 mg | CC(=CCC/C(=C/CC/C(=C/CSC[C@@H](C(=O)O)N)/C)/C)C | C18H31NO2S
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | 60 mL | C(C)(=O)OCC | C4H8O2
product | (R)-2-(3-(furan-2-yl)propanamido)-3-((2E,6E)-3,7,11-trimethyldodeca-2,6,10-trienylthio)propanoic acid | O1C(=CC=C1)CCC(=O)N[C@H](C(=O)O)CSC\C=C(\CC\C=C(\CCC=C(C)C)/C)/C | C25H37NO4S
